US04822814
Preparation of methyl 1,3-dithiol-2-ylidenemethylsulfonylacetate (Compound No. 1) [by Process (b)]
To a mixture of 15.2 g of methyl methylsulfonylacetate, 7.6 g of carbon disulfide and 200 ml of dimethylformamide, 14.0 g of potassium hydroxide was added under ice-cooling. The resultant mixture was stirred for 3 hours. Thereafter, 9.7 g of cis-1,2-dichloroethylene was added, followed by stirring at 80° C. for 4 hours. After cooling the reaction mixture, chloroform and water were added and the resulting organic layer was separated. Upon removal of the solvent by distillation under reduced pressure, 20.9 g of the title compound was obtained as pale yellow crystals. Upon recrystallization from a mixed solvent of chloroform and n-hexane, they turned to white crystals. Melting point: 166°-168° C. (decomposed).

reactant | methyl methylsulfonylacetate | 15.2 g | CS(=O)(=O)CC(=O)OC | C4H8O4S
reactant | carbon disulfide | 7.6 g | C(=S)=S | CS2
reactant | potassium hydroxide | 14.0 g | [OH-].[K+]
reactant | cis-1,2-dichloroethylene | 9.7 g | Cl\C=C/Cl | C2H2Cl2
solvent | water | O | H2O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | methyl 1,3-dithiol-2-ylidenemethylsulfonylacetate | 20.9 g | S1C(SC=C1)=CS(=O)(=O)CC(=O)OC | C7H8O4S3
